US08431695B2
Preparation of 3-{3-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-1,1-dimethyl-urea
Using a procedure similar to that of Example 5 with 7-(3-amino-phenyl)-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine and dimethylcarbamyl chloride as starting materials, 26 mg (9%) of the desired product was Isolated. 1H NMR (300 MHz, DMSO-d6) δ 8.80 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 3.0 (s, 6 H); ES-MS m/z 503.26 [M+H]+, HPLC RT (min) 2.66.

reactant | 7-(3-amino-phenyl)-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | NC=1C=C(C=CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C26H21N7
reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
product | 3-{3-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-1,1-dimethyl-urea | 26 mg, 9% | NC1=NC=NN2C1=C(C=C2C=2C=C(C=CC2)NC(N(C)C)=O)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C29H26N8O
